US04136196
Sodium 2-(3-phenylpropylhydrazono)-propionate
3,4-methylenedioxy-phenethylhydrazine sulphate (m.p. 138°-140° C. (decomp.)) and subsequent preparation of the sodium salt: sodium 2-(3,4-methylenedioxy-phenethylhydrazono)-propionate; m.p. 175°-177° C. (decomp.), after recrystallization from ethanol.

reactant | 3,4-methylenedioxy-phenethylhydrazine sulphate | S(=O)(=O)(O)O.C1OC=2C=C(CCNN)C=CC2O1
reactant | sodium | [Na] | Na
reactant | sodium 2-(3,4-methylenedioxy-phenethylhydrazono)-propionate | C1OC=2C=C(CCNN=C(C(=O)[O-])C)C=CC2O1.[Na+]
product | Sodium 2-(3-phenylpropylhydrazono)-propionate | C1(=CC=CC=C1)CCCNN=C(C(=O)[O-])C.[Na+] | InChI=1S/C12H16N2O2.Na/c1-10(12(15)16)14-13-9-5-8-11-6-3-2-4-7-11;/h2-4,6-7,13H,5,8-9H2,1H3,(H,15,16);/q;+1/p-1
